US08232278B2
Synthesis of 2-amino-4-[(N-3-methylphenylcarbamoyl)-homopiperazin-1-yl]-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine
A solution of 2-acetamido-4-[(N-3-methylphenylcarbamoyl)-homopiperazin-1-yl]-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine (110 mg, 0.24 mmol) and potassium carbonate (83 mg, 0.6 mmol) in methanol (10 ml) and water (5 ml) was heated at 50° C. for 2 hours. The solvents were evaporated in vacuo and the crude residue was purified by silica gel flash chromatography, the mobile phase being a MeOH/CH2Cl2 mixture in a volume ratio of 1:30, resulting in the pure title compound (96 mg, yield: 93%) which was characterised as follows:

reactant | 2-acetamido-4-[(N-3-methylphenylcarbamoyl)-homopiperazin-1-yl]-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine | 0.24 mmol, 110 mg | C(C)(=O)NC=1N=C(C2=C(N1)C=CC(=N2)C2=CC(=C(C=C2)OC)OC)N2C(CNCCC2)C(NC2=CC(=CC=C2)C)=O | C30H33N7O4
reactant | potassium carbonate | 0.6 mmol, 83 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 2-amino-4-[(N-3-methylphenylcarbamoyl)-homopiperazin-1-yl]-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine | 96 mg, yield: 93% | NC=1N=C(C2=C(N1)C=CC(=N2)C2=CC(=C(C=C2)OC)OC)N2C(CNCCC2)C(NC2=CC(=CC=C2)C)=O | C28H31N7O3
